US06559143B1
(i) 4-(3-Butenyl)benzonitrile
Magnesium (4.2 g, 173 mmol) was activated by washing with dilute HCl, water and acetone and was then dried in vacuo. ZnBr2 (37 g, 165 mmol) was sublimed under reduced pressure (approx. 5-20 mmHg) by gentle heating in a glovebox. The glovebox was used as it was extremely humid in the lab. Mg and ZnBr2 were mixed in a dry 3-necked flask under N2 and dry THF (30 mL) was added. 4-Bromo-1-butene (25.1 g, 186 mmol) dissolved in dry THF (175 mL) was added dropwise to the Mg/ZnBr2 slurry and, during the addition, the reaction mixture turned greyish and then black. Some heat was also evolved (>40° C.). After complete addition, the mixture was heated to 50° C. overnight. 4-Bromobenzonitrile (30.5 g, 167 mmol) was co-evaporated with toluene twice and was then dissolved in dry THF (250 ml) together with Pd(PPh3)4 (5 g, 4.3 mmol, 2.5 mole). The slurry was added to the Grignard reagent and the reaction mixture was stirred at room temperature overnight. HCl (500 mL, 3 M) was added dropwise to the reaction mixture, and the resulting solution was extracted with ether (1000+3×500 mL), the combined ether solutions were washed with NaHCO3 (satd. 3×250 mL), dried, filtered and evaporated. The crude product (29.7 g) was subjected to Dry-Flash chromatography (diameter 12 cm, height 5 cm, heptane:EtOAc (99:1 to 90:10)) to give 21.2 g of the sub-title compound contaminated with 4-bromobenzonitrile (about 20%). This material was used in the next step.

reactant | Magnesium | 173 mmol, 4.2 g | [Mg] | Mg
reactant | 4-Bromo-1-butene | 186 mmol, 25.1 g | BrCCC=C | C4H7Br
reactant | 4-Bromobenzonitrile | 167 mmol, 30.5 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | HCl | 3 M, 500 mL | Cl | ClH
solvent | THF | 175 mL | C1CCOC1 | C4H8O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
catalyst | ZnBr2 | 165 mmol, 37 g | [Zn+2].[Br-].[Br-]
catalyst | Pd(PPh3)4 | 4.3 mmol, 5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(3-Butenyl)benzonitrile | 21.2 g | C(CC=C)C1=CC=C(C#N)C=C1 | C11H11N
